US05312829
4'-Isobutylpentanophenone (2.1 g) was added to a solution of (+)-B-chlorodiisopinocampheylborane (3.57 g) in tetrahydrofuran (7 ml) at -25° C. After stirring for 5 hours, the solvent was removed and the residue was dissolved in ethyl ether (30 ml). To this solution was added diethanolamine (2 ml), and the mixture was stirred for 2 hours. The solid was filtered off and washed with ethyl ether. The combined filtrates were concentrated and the residue was chromatographed on silica gel (hexane:dichloromethane =1:2) to give (R)-1-(4-isobutylphenyl)pentan-1-ol (635 mg).

reactant | 4'-Isobutylpentanophenone | 2.1 g | C(C(C)C)C1=CC=C(C=C1)C(CCCC)=O | C15H22O
reactant | (+)-B-chlorodiisopinocampheylborane | 3.57 g | B([C@H]1C[C@H]2C[C@@H]([C@@H]1C)C2(C)C)([C@H]3C[C@H]4C[C@@H]([C@@H]3C)C4(C)C)Cl | C20H34BCl
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
product | (R)-1-(4-isobutylphenyl)pentan-1-ol | 635 mg | C(C(C)C)C1=CC=C(C=C1)[C@@H](CCCC)O | C15H24O
